US04075341
2-(3-Ethoxyphenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline
2-(3-Hydroxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline (3.95 g.) is added to 60 ml. of ethanol containing one equivalent proportion of sodium ethoxide. To this mixture is added 1.57 ml. of ethyl iodide in 15 ml. of ethanol. After stirring for one hour at room temperature, a further 1.57 ml. of ethyl iodide is added and the mixture is refluxed for 18 hours. The solvent is distilled off and the residue is washed with water and extracted with dichloromethane. Evaporation of the solvent and crystallization of the residue from ethanol gives 3.87 g. of the title product; m.p. 102°-3° C.

reactant | 2-(3-Hydroxyphenyl)-5,6-dihydro-s-triazolo-[5,1-a]isoquinoline | 3.95 g | OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C16H13N3O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | one equivalent | C(C)O | C2H6O
product | 2-(3-Ethoxyphenyl)-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | C(C)OC=1C=C(C=CC1)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C18H17N3O
